US04340417
Preparation of 1-[5-(2-chloro-4-(trifluoromethyl)phenoxy)-2-nitrobenzoyl]-3-isopropyl-2,1,3-benzothiadiazin-4-one-2,2-dioxide.
To a stirred solution of 3-isopropyl-2,1,3-benzothiadiazin-4-one-2,2-dioxide (2.4 g, 0.01 mole) and tricthylamine (1.1 g, 0.011 mole) in a mixture of toluene (100 ml) and chloroform (100 ml) was added 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzoyl chloride (3.8 g, 0.01 mole). The reaction was heated for 24 hours and then the solvent was removed. The residue was taken back up into chloroform and extracted three times with sodium hydroxide and finally with water. The organic solution was dried and evaporated to give 2.8 g of an oil which was triturated with petroleum ether to give a solid which was recrystallized from chloroform-petroleum ether to give a white solid, mp 125°-8° C.

reactant | 3-isopropyl-2,1,3-benzothiadiazin-4-one-2,2-dioxide | 0.01 mole, 2.4 g | C(C)(C)N1S(NC2=C(C1=O)C=CC=C2)(=O)=O | C10H12N2O3S
reactant | 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzoyl chloride | 0.01 mole, 3.8 g | ClC1=C(OC=2C=CC(=C(C(=O)Cl)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H6Cl2F3NO4
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[5-(2-chloro-4-(trifluoromethyl)phenoxy)-2-nitrobenzoyl]-3-isopropyl-2,1,3-benzothiadiazin-4-one-2,2-dioxide | 2.8 g | ClC1=C(OC=2C=CC(=C(C(=O)N3S(N(C(C4=C3C=CC=C4)=O)C(C)C)(=O)=O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C24H17ClF3N3O7S
